US07375134B2
n-BuLi (2.5 M in hexanes, 21.4 mL) was added dropwise to a stirred solution of 1,4-dibromobenzene (12.6 g) in dry diethyl ether (80 mL) at −30° C. and the reaction mixture was stirred for 30 minutes. A solution of (2S)-1-{[tert-butyl(dimethyl)silyl]oxy}-5,5,5-trifluoro-N-[(1E)-2,2,2-trifluoroethylidene]pentan-2-amine (3.75 g, 10.7 mmol) in dry diethyl ether (30 mL) was then added dropwise and the reaction mixture was allowed to warm to ambient temperature and stirred for 16 hours. The reaction mixture was then quenched with 100 mL of water. The organic phase was washed with brine, dried with magnesium sulfate, and filtered. The filtrate was concentrated by rotary evaporation to yield crude product which was purified by silica gel chromatography using 1% ethyl acetate in hexanes as eluant to yield (S)-[1-(4-bromophenyl)-2,2,2-trifluoro-ethyl]-[1-(tert-butyl-dimethyl-silanyloxymethyl)-4,4,4-trifluoro-butyl]-amine (1.8 g). (S)-[1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]-[1-(tert-butyl-dimethyl-silanyloxymethyl)-4,4,4-trifluoro-butyl]-amine was dissolved in THF (50 mL) and chilled to 0° C. and tert-butylammonium fluoride (10.6 mL, 1 M THF solution) was added dropwise. The reaction mixture was allowed to warm to ambient temperature and stirred for 4 hours. The reaction mixture was quenched with a saturated aqueous solution of ammonium chloride and then ethyl acetate was added and the mixture vigorously shaken. The organic layer was separated and washed two times with brine, dried with magnesium sulfate and filtered. The solvent was removed by rotary evaporation to yield a residue which was purified on SiO2 using a gradient of 20-25% ethyl acetate in hexanes as eluant to yield (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-5,5,5-trifluoropentan-1-ol.

reactant | (S)-[1-(4-Bromophenyl)-2,2,2-trifluoro-ethyl]-[1-(tert-butyl-dimethyl-silanyloxymethyl)-4,4,4-trifluoro-butyl]-amine | BrC1=CC=C(C=C1)C(C(F)(F)F)N[C@@H](CCC(F)(F)F)C(O[SiH2]C(C)(C)C)(C)C | C19H28BrF6NOSi
reactant | tert-butylammonium fluoride | 1 M, 10.6 mL | [F-].C(C)(C)(C)[NH3+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-5,5,5-trifluoropentan-1-ol | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](CO)CCC(F)(F)F | C13H14BrF6NO
